US05187289
25.7 g (0.1 mol) of 2-nitro-2'-hydroxy-5'-methylazobenzene, 0.125 g of palladium carbon, 100 ml of toluene, 50 ml of IPA, 25 ml of water and 7 g of 50% dimethylamine were charged into a 500-ml stainless autoclave with an agitator. After the air in the flask had been replaced by hydrogen, the pressure of hydrogen was set to 10 kg/cm2. Reaction was then effected in the same way as that employed in Example 1. After the reaction had been completed, the catalyst was filtered off, and part of the filtrate was subjected to quantitative analysis using gas chromatography (GC). The results revealed a yield of 81% of 2-(2'-hydroxy-5'-methylphenyl)benzotriazole. The toluene layer was separated, and most part of toluene was then distilled off from the layer. The residual solid was then crystallized using ethanol and then dried to obtain 15.7 g of 2-(2'-hydroxy-5'-methylphenyl)benzotriazole (yield, 69.8%; melting point, 128° to 130° C.).

reactant | 2-nitro-2'-hydroxy-5'-methylazobenzene | 0.1 mol, 25.7 g | [N+](=O)([O-])C1=C(C=CC=C1)N=NC1=C(C=CC(=C1)C)O | C13H11N3O3
reactant | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
reactant | dimethylamine | 7 g | CNC | C2H7N
reactant | hydrogen | [H][H] | H2
catalyst | palladium carbon | 0.125 g | [C].[Pd]
solvent | water | 25 ml | O | H2O
solvent | IPA | 50 ml | CC(C)O | C3H8O
product | 2-(2'-hydroxy-5'-methylphenyl)benzotriazole | yield of 81% | OC1=C(C=C(C=C1)C)N1N=C2C(=N1)C=CC=C2 | C13H11N3O
